* Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\sim_dmux301a.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map BUS9$10 104
.node_map BUS9$11 105
.node_map BUS9$12 106
.node_map BUS9$13 107
.node_map BUS9$14 108
.node_map BUS9$15 109
.node_map BUS1$0 32
.node_map BUS1$1 33
.node_map d2A$0 3
.node_map d2A$1 4
.node_map BUS2$0 34
.node_map BUS2$1 35
.node_map BUS2$2 36
.node_map BUS2$3 37
.node_map BUS2$4 38
.node_map BUS2$5 39
.node_map BUS2$6 40
.node_map BUS2$7 41
.node_map d8A$0 5
.node_map BUS3$10 52
.node_map BUS3$0 42
.node_map d8A$1 6
.node_map BUS3$11 53
.node_map BUS3$1 43
.node_map d8A$2 7
.node_map BUS3$12 54
.node_map BUS3$2 44
.node_map d8A$3 8
.node_map BUS3$13 55
.node_map BUS3$3 45
.node_map d8A$4 9
.node_map BUS3$14 56
.node_map BUS3$4 46
.node_map d8A$5 10
.node_map BUS6$10 78
.node_map BUS3$15 57
.node_map BUS3$5 47
.node_map d8A$6 11
.node_map BUS6$11 79
.node_map BUS3$6 48
.node_map d8A$7 12
.node_map BUS6$12 80
.node_map BUS3$7 49
.node_map BUS6$13 81
.node_map BUS4$0 58
.node_map BUS3$8 50
.node_map BUS6$14 82
.node_map BUS4$1 59
.node_map BUS3$9 51
.node_map BUS6$15 83
.node_map BUS5$0 60
.node_map BUS5$1 61
.node_map BUS5$2 62
.node_map BUS5$3 63
.node_map BUS5$4 64
.node_map BUS5$5 65
.node_map BUS5$6 66
.node_map BUS5$7 67
.node_map d16A$0 13
.node_map BUS6$0 68
.node_map d16A$1 14
.node_map BUS6$1 69
.node_map d16A$2 15
.node_map BUS6$2 70
.node_map d16A$3 16
.node_map BUS6$3 71
.node_map d16A$4 17
.node_map BUS6$4 72
.node_map d16A$10 23
.node_map d16A$5 18
.node_map BUS6$5 73
.node_map d16A$11 24
.node_map d16A$6 19
.node_map BUS6$6 74
.node_map d16A$12 25
.node_map d16A$7 20
.node_map BUS6$7 75
.node_map d16A$13 26
.node_map d16A$8 21
.node_map BUS7$0 84
.node_map BUS6$8 76
.node_map d16A$14 27
.node_map d16A$9 22
.node_map BUS7$1 85
.node_map BUS6$9 77
.node_map d16A$15 28
.node_map BUS8$0 86
.node_map BUS8$1 87
.node_map BUS8$2 88
.node_map BUS8$3 89
.node_map BUS8$4 90
.node_map BUS8$5 91
.node_map BUS8$6 92
.node_map BUS8$7 93
.node_map BUS9$0 94
.node_map BUS9$1 95
.node_map BUS9$2 96
.node_map BUS9$3 97
.node_map BUS9$4 98
.node_map BUS9$5 99
.node_map BUS9$6 100
.node_map BUS9$7 101
.node_map BUS9$8 102
.node_map BUS9$9 103
.node_map s3$0 29
.node_map s3$1 30
.node_map s3$2 31
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 100u 0

.globalvar tdext_khz=200
.globalvar VIN=5
.globalvar REF=0.9


.GRAPH "ComposeDigital('#BUS1', [0, 1],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="2_2" disabled=false 
.PRINT ^BUS1$*
.GRAPH "ComposeDigital('#BUS2', [0, 7],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="2_8" disabled=false 
.PRINT ^BUS2$*
.GRAPH "ComposeDigital('#BUS3', [0, 15],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="2_16" disabled=false 
.PRINT ^BUS3$*
.GRAPH "ComposeDigital('#BUS6', [0, 15],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="4_16" disabled=false 
.PRINT ^BUS6$*
.GRAPH "ComposeDigital('#BUS5', [0, 7],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="4_8" disabled=false 
.PRINT ^BUS5$*
.GRAPH "ComposeDigital('#BUS4', [0, 1],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="4_2" disabled=false 
.PRINT ^BUS4$*
.GRAPH "ComposeDigital('#BUS7', [0, 1],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="8_2" disabled=false 
.PRINT ^BUS7$*
.GRAPH "ComposeDigital('#BUS9', [0, 15],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="8_16" disabled=false 
.PRINT ^BUS9$*
.GRAPH "ComposeDigital('#BUS8', [0, 7],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="8_8" disabled=false 
.PRINT ^BUS8$*
X$U2 32 33 3 4 3 4 34 35 36 37 38 39 40 41 3 4 3 4 3 4 3 4 42 43 44 45 46 47 48 49 50 51 52 53 54 55 56 57 3 4 3 4 5 6 7 8 9 10 11 12 5 6 7 8 9 10 11 12 58 59 5 6 7 8 9 10 11 12 5 6 7 8 9 10 11 12 5 6 7 8 9 10 11 12 5 6 7 8 9 10 11 12 5 6 7 8 9 10 11 12 5 6 7 8 9 10 11 12 60 61 62 63 64 65 66 67 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 68 69 70 71 72 73 74 75 76 77 78 79 80 81 82 83 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 84 85 29 29 30 29 30 31 86 87 88 89 90 91 92 93 94 95 96 97 98 99 100 101 102 103 104 105 106 107 108 109 dmux301a
X$U3 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\FORCEdmux301a.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\dmux301a.sxcmp
.subckt dmux301a 31 32 175 176 191 192 47 48 49 50 51 52 53 54 207 208 239 240 271 272 287 288 79 80 81 82 83 84 85 86 87 88 89 90 91 92 93 94 303 304 335 336 223 224 225 226 227 228 229 230 255 256 257 258 259 260 261 262 95 96 370 371 372 373 374 375 376 377 386 387 388 389 390 391 392 393 402 403 404 405 406 407 408 409 420 421 422 423 424 425 426 427 436 437 438 439 440 441 442 443 452 453 454 455 456 457 458 459 127 128 129 130 131 132 133 134 319 320 321 322 323 324 325 326 327 328 329 330 331 332 333 334 351 352 353 354 355 356 357 358 359 360 361 362 363 364 365 366 468 469 470 471 472 473 474 475 476 477 478 479 480 481 482 483 484 485 486 487 488 489 490 491 492 493 494 495 496 497 498 499 500 501 502 503 504 505 506 507 508 509 510 511 512 513 514 515 159 160 161 162 163 164 165 166 167 168 169 170 171 172 173 174 516 517 518 519 520 521 522 523 524 525 526 527 528 529 530 531 532 533 534 535 536 537 538 539 540 541 542 543 544 545 546 547 548 549 550 551 552 553 554 555 556 557 558 559 560 561 562 563 63 64 564 418 419 367 368 369 111 112 113 114 115 116 117 118 143 144 145 146 147 148 149 150 151 152 153 154 155 156 157 158
*#hierarchy
.node_map d16F$7 523
.node_map s4$0 418
.node_map d16G$0 532
.node_map d16F$8 524
.node_map s4$1 419
.node_map out2_8$10 57
.node_map d16G$1 533
.node_map d16F$9 525
.node_map out2_8$11 58
.node_map d16G$2 534
.node_map out2_8$12 59
.node_map d16G$3 535
.node_map out8_2$10 73
.node_map out2_8$13 60
.node_map d16G$4 536
.node_map out8_2$11 74
.node_map out2_8$14 61
.node_map d16G$5 537
.node_map out8_2$12 75
.node_map out2_8$15 62
.node_map d16G$6 538
.node_map out8_2$13 76
.node_map d16G$7 539
.node_map out8_2$14 77
.node_map d16H$0 548
.node_map d16G$8 540
.node_map out8_2$15 78
.node_map d16H$1 549
.node_map d16G$9 541
.node_map out8_16$10 153
.node_map d16H$2 550
.node_map out8_16$11 154
.node_map d16H$3 551
.node_map out8_16$12 155
.node_map d16H$4 552
.node_map out8_16$13 156
.node_map d16H$5 553
.node_map out8_16$14 157
.node_map out8_8$10 121
.node_map d16H$6 554
.node_map d2A$10 185
.node_map out8_16$15 158
.node_map out8_8$11 122
.node_map d16H$7 555
.node_map d2A$11 186
.node_map out8_8$12 123
.node_map d16H$8 556
.node_map d2A$12 187
.node_map out8_8$13 124
.node_map d16H$9 557
.node_map d2A$13 188
.node_map out8_8$14 125
.node_map d2A$14 189
.node_map out8_8$15 126
.node_map out2_16$10 89
.node_map out8_2$0 63
.node_map d2D$10 249
.node_map d2A$15 190
.node_map d2A$0 175
.node_map out2_16$11 90
.node_map out8_2$1 64
.node_map d2D$11 250
.node_map d2A$1 176
.node_map out2_16$12 91
.node_map out8_2$2 65
.node_map d2D$12 251
.node_map d2A$2 177
.node_map out2_16$13 92
.node_map out8_2$3 66
.node_map out2_8$0 47
.node_map d2D$13 252
.node_map d2A$3 178
.node_map out2_16$14 93
.node_map out8_2$4 67
.node_map out2_8$1 48
.node_map d2D$14 253
.node_map d2A$4 179
.node_map out2_16$15 94
.node_map out8_2$5 68
.node_map out2_8$2 49
.node_map d2G$10 313
.node_map d2D$15 254
.node_map d2A$5 180
.node_map out8_2$6 69
.node_map out2_8$3 50
.node_map d2G$11 314
.node_map d2A$6 181
.node_map out8_2$7 70
.node_map out2_8$4 51
.node_map d2G$12 315
.node_map d2A$7 182
.node_map out8_2$8 71
.node_map out2_8$5 52
.node_map d2G$13 316
.node_map d2B$10 201
.node_map d2B$0 191
.node_map d2A$8 183
.node_map out8_2$9 72
.node_map out2_8$6 53
.node_map d2G$14 317
.node_map d2B$11 202
.node_map d2B$1 192
.node_map d2A$9 184
.node_map out2_8$7 54
.node_map d2G$15 318
.node_map d8A$0 223
.node_map d2B$12 203
.node_map d2B$2 193
.node_map out2_8$8 55
.node_map d8A$1 224
.node_map d2B$13 204
.node_map d2B$3 194
.node_map out2_8$9 56
.node_map s8$0 367
.node_map d8A$2 225
.node_map d2B$14 205
.node_map d2B$4 195
.node_map s8$1 368
.node_map d2E$10 281
.node_map d8A$3 226
.node_map d2B$15 206
.node_map d2B$5 196
.node_map s8$2 369
.node_map d2E$11 282
.node_map d8A$4 227
.node_map d2B$6 197
.node_map d2E$12 283
.node_map d8A$5 228
.node_map d2B$7 198
.node_map d2E$13 284
.node_map d8A$6 229
.node_map d2C$0 207
.node_map d2B$8 199
.node_map d2E$14 285
.node_map d8A$7 230
.node_map d2C$1 208
.node_map d2B$9 200
.node_map out4_8$0 127
.node_map d16B$10 361
.node_map d2H$10 345
.node_map d2E$15 286
.node_map d8B$0 255
.node_map d8A$8 231
.node_map d2C$2 209
.node_map out4_8$1 128
.node_map d16B$11 362
.node_map d2H$11 346
.node_map d8B$1 256
.node_map d8A$9 232
.node_map d2C$3 210
.node_map out4_8$2 129
.node_map d16B$12 363
.node_map d2H$12 347
.node_map d8B$2 257
.node_map d2C$4 211
.node_map out4_8$3 130
.node_map d16B$13 364
.node_map d2H$13 348
.node_map d8B$3 258
.node_map d2C$10 217
.node_map d2C$5 212
.node_map out4_8$4 131
.node_map d16B$14 365
.node_map d2H$14 349
.node_map d8B$4 259
.node_map d2C$11 218
.node_map d2C$6 213
.node_map out4_8$5 132
.node_map d16E$10 510
.node_map d16B$15 366
.node_map d2H$15 350
.node_map d8B$5 260
.node_map d2C$12 219
.node_map d2C$7 214
.node_map out4_8$6 133
.node_map d16E$11 511
.node_map d8B$6 261
.node_map d2D$0 239
.node_map d2C$13 220
.node_map d2C$8 215
.node_map out4_8$7 134
.node_map d16E$12 512
.node_map d8B$7 262
.node_map d2D$1 240
.node_map d2C$14 221
.node_map d2C$9 216
.node_map out4_8$8 135
.node_map d16E$13 513
.node_map d8C$0 370
.node_map d2F$10 297
.node_map d8B$8 263
.node_map d2D$2 241
.node_map d2C$15 222
.node_map out4_8$9 136
.node_map d16E$14 514
.node_map d8C$1 371
.node_map d2F$11 298
.node_map d8B$9 264
.node_map d2D$3 242
.node_map d16H$10 558
.node_map d16E$15 515
.node_map d8C$2 372
.node_map d2F$12 299
.node_map d2D$4 243
.node_map d16H$11 559
.node_map d8C$3 373
.node_map d2F$13 300
.node_map d2D$5 244
.node_map d16H$12 560
.node_map d8C$4 374
.node_map d2F$14 301
.node_map d2D$6 245
.node_map out4_8$10 137
.node_map d16H$13 561
.node_map d16C$10 478
.node_map d8C$5 375
.node_map d2F$15 302
.node_map d2D$7 246
.node_map out4_8$11 138
.node_map d16H$14 562
.node_map d16C$11 479
.node_map d8C$6 376
.node_map d2E$0 271
.node_map d2D$8 247
.node_map out4_8$12 139
.node_map d16H$15 563
.node_map d16C$12 480
.node_map d8C$7 377
.node_map d2E$1 272
.node_map d2D$9 248
.node_map out4_8$13 140
.node_map d16C$13 481
.node_map d8D$0 386
.node_map d8C$8 378
.node_map d16A$0 319
.node_map d2E$2 273
.node_map out4_8$14 141
.node_map d16C$14 482
.node_map d8D$1 387
.node_map d8C$9 379
.node_map d16A$1 320
.node_map d2E$3 274
.node_map out4_8$15 142
.node_map d16F$10 526
.node_map d16C$15 483
.node_map d8D$2 388
.node_map d16A$2 321
.node_map d2E$4 275
.node_map d16F$11 527
.node_map d8F$10 430
.node_map d8D$3 389
.node_map d16A$3 322
.node_map d2E$5 276
.node_map d16F$12 528
.node_map d8F$11 431
.node_map d8D$4 390
.node_map d16A$4 323
.node_map d2E$6 277
.node_map s2 564
.node_map d16F$13 529
.node_map d8F$12 432
.node_map d8D$5 391
.node_map d16A$10 329
.node_map d16A$5 324
.node_map d2E$7 278
.node_map d16F$14 530
.node_map d8F$13 433
.node_map d8D$6 392
.node_map d16A$11 330
.node_map d16A$6 325
.node_map d2F$0 287
.node_map d2E$8 279
.node_map d8A$10 233
.node_map out4_16$0 159
.node_map d16F$15 531
.node_map d8F$14 434
.node_map d8D$7 393
.node_map d16A$12 331
.node_map d16A$7 326
.node_map d2F$1 288
.node_map d2E$9 280
.node_map d8A$11 234
.node_map out4_16$10 169
.node_map out4_16$1 160
.node_map d8F$15 435
.node_map d8E$0 402
.node_map d8D$8 394
.node_map d16B$0 351
.node_map d16A$13 332
.node_map d16A$8 327
.node_map d2F$2 289
.node_map d8A$12 235
.node_map out4_16$11 170
.node_map out4_16$2 161
.node_map d8E$1 403
.node_map d8D$9 395
.node_map d16B$1 352
.node_map d16A$14 333
.node_map d16A$9 328
.node_map d2F$3 290
.node_map d8A$13 236
.node_map out4_16$12 171
.node_map out4_16$3 162
.node_map d16D$10 494
.node_map d8E$2 404
.node_map d16B$2 353
.node_map d16A$15 334
.node_map d2F$4 291
.node_map d8A$14 237
.node_map out4_16$13 172
.node_map out4_16$4 163
.node_map d16D$11 495
.node_map d8E$3 405
.node_map d8D$10 396
.node_map d16B$3 354
.node_map d2F$5 292
.node_map d8A$15 238
.node_map out4_16$14 173
.node_map out4_16$5 164
.node_map d16D$12 496
.node_map d8E$4 406
.node_map d8D$11 397
.node_map d16B$4 355
.node_map d2F$6 293
.node_map out4_16$15 174
.node_map out4_16$6 165
.node_map d16D$13 497
.node_map d8E$5 407
.node_map d8D$12 398
.node_map d16B$5 356
.node_map d2F$7 294
.node_map out4_16$7 166
.node_map out8_8$0 111
.node_map d16D$14 498
.node_map d8E$6 408
.node_map d8D$13 399
.node_map d16B$6 357
.node_map d2G$0 303
.node_map d2F$8 295
.node_map out4_16$8 167
.node_map out8_8$1 112
.node_map d16G$10 542
.node_map d16D$15 499
.node_map d8E$7 409
.node_map d8D$14 400
.node_map d16B$7 358
.node_map d2G$1 304
.node_map d2F$9 296
.node_map out4_16$9 168
.node_map out8_8$2 113
.node_map d16G$11 543
.node_map d16C$0 468
.node_map d8G$10 446
.node_map d8F$0 420
.node_map d8E$8 410
.node_map d8D$15 401
.node_map d16B$8 359
.node_map d2G$2 305
.node_map out8_8$3 114
.node_map d16G$12 544
.node_map d16C$1 469
.node_map d8G$11 447
.node_map d8F$1 421
.node_map d8E$9 411
.node_map d16B$9 360
.node_map d2G$3 306
.node_map out8_8$4 115
.node_map d16G$13 545
.node_map d16C$2 470
.node_map d8G$12 448
.node_map d8F$2 422
.node_map d2G$4 307
.node_map out8_8$5 116
.node_map d16G$14 546
.node_map d16C$3 471
.node_map d8G$13 449
.node_map d8F$3 423
.node_map d2G$5 308
.node_map d8B$10 265
.node_map out8_8$6 117
.node_map d16G$15 547
.node_map d16C$4 472
.node_map d8G$14 450
.node_map d8F$4 424
.node_map d2G$6 309
.node_map d8B$11 266
.node_map out8_8$7 118
.node_map out4_2$10 105
.node_map d16C$5 473
.node_map d8G$15 451
.node_map d8F$5 425
.node_map d2G$7 310
.node_map d8B$12 267
.node_map out8_8$8 119
.node_map out4_2$11 106
.node_map out2_2$0 31
.node_map d16C$6 474
.node_map d8F$6 426
.node_map d2H$0 335
.node_map d2G$8 311
.node_map d8B$13 268
.node_map out8_8$9 120
.node_map out4_2$12 107
.node_map out2_2$1 32
.node_map d16C$7 475
.node_map d8F$7 427
.node_map d2H$1 336
.node_map d2G$9 312
.node_map d8B$14 269
.node_map out4_2$13 108
.node_map out2_2$2 33
.node_map d16D$0 484
.node_map d16C$8 476
.node_map d8G$0 436
.node_map d8F$8 428
.node_map d8E$10 412
.node_map d2H$2 337
.node_map d8B$15 270
.node_map out4_2$14 109
.node_map out2_16$0 79
.node_map out2_2$3 34
.node_map d16D$1 485
.node_map d16C$9 477
.node_map d8G$1 437
.node_map d8F$9 429
.node_map d8E$11 413
.node_map d2H$3 338
.node_map out4_2$15 110
.node_map out2_16$1 80
.node_map out2_2$4 35
.node_map d16D$2 486
.node_map d8G$2 438
.node_map d8E$12 414
.node_map d2H$4 339
.node_map out2_16$2 81
.node_map out2_2$5 36
.node_map d16D$3 487
.node_map d8G$3 439
.node_map d8E$13 415
.node_map d2H$5 340
.node_map out2_16$3 82
.node_map out2_2$6 37
.node_map d16D$4 488
.node_map d8G$4 440
.node_map d8E$14 416
.node_map d2H$6 341
.node_map out2_16$4 83
.node_map out2_2$7 38
.node_map d16D$5 489
.node_map d8H$10 462
.node_map d8G$5 441
.node_map d8E$15 417
.node_map d2H$7 342
.node_map out2_16$5 84
.node_map out2_2$8 39
.node_map d16D$6 490
.node_map d8H$11 463
.node_map d8G$6 442
.node_map d2H$8 343
.node_map out2_16$6 85
.node_map out2_2$9 40
.node_map d16D$7 491
.node_map d8H$12 464
.node_map d8G$7 443
.node_map d2H$9 344
.node_map out2_16$7 86
.node_map d16E$0 500
.node_map d16D$8 492
.node_map d8H$13 465
.node_map d8H$0 452
.node_map d8G$8 444
.node_map d8C$10 380
.node_map out2_16$8 87
.node_map d16E$1 501
.node_map d16D$9 493
.node_map d8H$14 466
.node_map d8H$1 453
.node_map d8G$9 445
.node_map d8C$11 381
.node_map out2_16$9 88
.node_map d16E$2 502
.node_map d8H$15 467
.node_map d8H$2 454
.node_map d8C$12 382
.node_map d16E$3 503
.node_map d8H$3 455
.node_map d8C$13 383
.node_map d16E$4 504
.node_map d8H$4 456
.node_map d8C$14 384
.node_map out4_2$0 95
.node_map d16E$5 505
.node_map d8H$5 457
.node_map d8C$15 385
.node_map out8_16$0 143
.node_map out4_2$1 96
.node_map d16E$6 506
.node_map d8H$6 458
.node_map out8_16$1 144
.node_map out4_2$2 97
.node_map out2_2$10 41
.node_map d16E$7 507
.node_map d8H$7 459
.node_map out8_16$2 145
.node_map out4_2$3 98
.node_map out2_2$11 42
.node_map d16F$0 516
.node_map d16E$8 508
.node_map d8H$8 460
.node_map out8_16$3 146
.node_map out4_2$4 99
.node_map out2_2$12 43
.node_map d16F$1 517
.node_map d16E$9 509
.node_map d8H$9 461
.node_map out8_16$4 147
.node_map out4_2$5 100
.node_map out2_2$13 44
.node_map d16F$2 518
.node_map out8_16$5 148
.node_map out4_2$6 101
.node_map out2_2$14 45
.node_map d16F$3 519
.node_map out8_16$6 149
.node_map out4_2$7 102
.node_map out2_2$15 46
.node_map d16F$4 520
.node_map out8_16$7 150
.node_map out4_2$8 103
.node_map d16F$5 521
.node_map out8_16$8 151
.node_map out4_2$9 104
.node_map d16F$6 522
.node_map out8_16$9 152
X$U1 175 176 177 178 179 180 181 182 183 184 185 186 187 188 189 190 191 192 193 194 195 196 197 198 199 200 201 202 203 204 205 206 207 208 209 210 211 212 213 214 215 216 217 218 219 220 221 222 239 240 241 242 243 244 245 246 247 248 249 250 251 252 253 254 271 272 273 274 275 276 277 278 279 280 281 282 283 284 285 286 287 288 289 290 291 292 293 294 295 296 297 298 299 300 301 302 303 304 305 306 307 308 309 310 311 312 313 314 315 316 317 318 335 336 337 338 339 340 341 342 343 344 345 346 347 348 349 350 63 64 65 66 67 68 69 70 71 72 73 74 75 76 77 78 367 368 369 dmux8b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=8 dmux_bits=2 dmux_reg_por=1 dmux_vmax=6
X$U2 175 176 177 178 179 180 181 182 183 184 185 186 187 188 189 190 191 192 193 194 195 196 197 198 199 200 201 202 203 204 205 206 31 32 33 34 35 36 37 38 39 40 41 42 43 44 45 46 564 dmux2b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=2 dmux_bits=2 dmux_reg_por=0 dmux_vmax=6
X$U3 223 224 225 226 227 228 229 230 231 232 233 234 235 236 237 238 255 256 257 258 259 260 261 262 263 264 265 266 267 268 269 270 47 48 49 50 51 52 53 54 55 56 57 58 59 60 61 62 564 dmux2b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=2 dmux_bits=8 dmux_reg_por=0 dmux_vmax=6
X$U4 319 320 321 322 323 324 325 326 327 328 329 330 331 332 333 334 351 352 353 354 355 356 357 358 359 360 361 362 363 364 365 366 79 80 81 82 83 84 85 86 87 88 89 90 91 92 93 94 564 dmux2b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=2 dmux_bits=16 dmux_reg_por=0 dmux_vmax=6
X$U5 319 320 321 322 323 324 325 326 327 328 329 330 331 332 333 334 351 352 353 354 355 356 357 358 359 360 361 362 363 364 365 366 468 469 470 471 472 473 474 475 476 477 478 479 480 481 482 483 484 485 486 487 488 489 490 491 492 493 494 495 496 497 498 499 159 160 161 162 163 164 165 166 167 168 169 170 171 172 173 174 418 419 dmux4b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=4 dmux_bits=16 dmux_reg_por=0 dmux_vmax=6
X$U6 175 176 177 178 179 180 181 182 183 184 185 186 187 188 189 190 191 192 193 194 195 196 197 198 199 200 201 202 203 204 205 206 207 208 209 210 211 212 213 214 215 216 217 218 219 220 221 222 239 240 241 242 243 244 245 246 247 248 249 250 251 252 253 254 95 96 97 98 99 100 101 102 103 104 105 106 107 108 109 110 418 419 dmux4b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=4 dmux_bits=2 dmux_reg_por=0 dmux_vmax=6
X$U7 223 224 225 226 227 228 229 230 231 232 233 234 235 236 237 238 255 256 257 258 259 260 261 262 263 264 265 266 267 268 269 270 370 371 372 373 374 375 376 377 378 379 380 381 382 383 384 385 386 387 388 389 390 391 392 393 394 395 396 397 398 399 400 401 127 128 129 130 131 132 133 134 135 136 137 138 139 140 141 142 418 419 dmux4b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=4 dmux_bits=8 dmux_reg_por=0 dmux_vmax=6
X$U8 223 224 225 226 227 228 229 230 231 232 233 234 235 236 237 238 255 256 257 258 259 260 261 262 263 264 265 266 267 268 269 270 370 371 372 373 374 375 376 377 378 379 380 381 382 383 384 385 386 387 388 389 390 391 392 393 394 395 396 397 398 399 400 401 402 403 404 405 406 407 408 409 410 411 412 413 414 415 416 417 420 421 422 423 424 425 426 427 428 429 430 431 432 433 434 435 436 437 438 439 440 441 442 443 444 445 446 447 448 449 450 451 452 453 454 455 456 457 458 459 460 461 462 463 464 465 466 467 111 112 113 114 115 116 117 118 119 120 121 122 123 124 125 126 367 368 369 dmux8b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=8 dmux_bits=8 dmux_reg_por=1 dmux_vmax=6
X$U9 319 320 321 322 323 324 325 326 327 328 329 330 331 332 333 334 351 352 353 354 355 356 357 358 359 360 361 362 363 364 365 366 468 469 470 471 472 473 474 475 476 477 478 479 480 481 482 483 484 485 486 487 488 489 490 491 492 493 494 495 496 497 498 499 500 501 502 503 504 505 506 507 508 509 510 511 512 513 514 515 516 517 518 519 520 521 522 523 524 525 526 527 528 529 530 531 532 533 534 535 536 537 538 539 540 541 542 543 544 545 546 547 548 549 550 551 552 553 554 555 556 557 558 559 560 561 562 563 143 144 145 146 147 148 149 150 151 152 153 154 155 156 157 158 367 368 369 dmux8b vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=8 dmux_bits=16 dmux_reg_por=1 dmux_vmax=6
.ends dmux301a

.end
